US05356893
[4-(Methylsulphinyl)phenyl]boronic acid
A solution of [4-(methylthio)phenyl]boronic acid (1.008 g) in acetonitrile (60 ml) and water (6 ml) was cooled with a dry ice-acetone bath until it just began to freeze. A solution of ceric ammonium nitrate (6.72 g) in water (10 ml) was added with swirling. The resulting solution was left to warm to room temperature. The mixture was then basified to pH5 by addition of 8% aqueous sodium bicarbonate (16 ml) and evaporated to dryness by re-evaporation with absolute ethanol. The dried residue was purified by SPC (Merck 7729) using ethyl acetate-ethanol (9:1 followed by 4:1 and 7:3) as eluent, to give a colourless solid. The solid was further purified by FCC eluting with dichloromethane:ethanol (9:1) to give the title compound (1.00 g) as a colourless gum.

reactant | [4-(methylthio)phenyl]boronic acid | 1.008 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | sodium bicarbonate | 16 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | water | 6 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | [4-(Methylsulphinyl)phenyl]boronic acid | 1.00 g | CS(=O)C1=CC=C(C=C1)B(O)O | C7H9BO3S
